US09388173B2
Step 4: 1-(3-aminophenoxy)-3-(3,4-dihydroisoquinolin-2(1H)-yl)propan-2-ol
To a solution of tert-butyl (3-(3-(3,4-dihydroisoquinolin-2(1H)-yl)-2-hydroxypropoxy)phenyl)carbamate (1.2 g, 3.01 mmol) in ethyl acetate (30 mL) was added HCl/ethyl acetate (20 mL). The reaction mixture was stirred at room temperature for 2 h. and the concentrated with the residue used in the next step without further purification.

reactant | tert-butyl (3-(3-(3,4-dihydroisoquinolin-2(1H)-yl)-2-hydroxypropoxy)phenyl)carbamate | 3.01 mmol, 1.2 g | C1N(CCC2=CC=CC=C12)CC(COC=1C=C(C=CC1)NC(OC(C)(C)C)=O)O | C23H30N2O4
reactant | HCl ethyl acetate | 20 mL | Cl.C(C)(=O)OCC
solvent | ethyl acetate | 30 mL | C(C)(=O)OCC | C4H8O2
product | 1-(3-aminophenoxy)-3-(3,4-dihydroisoquinolin-2(1H)-yl)propan-2-ol | NC=1C=C(OCC(CN2CC3=CC=CC=C3CC2)O)C=CC1 | C18H22N2O2
